US04254260
To a solution of 1 N potassium hydroxide aqueous solution (246 ml.) in ethanol (52 ml.) was added ethyl 2-methanesulfonamidothiazol-5-ylacetate (26 g.) over 1 minutes under ice-cooling and stirring, and the mixture was stirred for about 5 minutes to produce a homogeneous solution. The solution was further stirred for 5 minutes and adjusted to pH 2 with 10% hydrochloric acid under ice-cooling and then stirred for 20 minutes at the same temperature. The precipitated crystals were collected by filtration, air-dried overnight and then dried over phosphorus pentoxide to give colorless crystals of 2-methanesulfonamidothiazol-2-ylacetic acid (16.6 g.), mp 232° to 234° C. (dec.).

reactant | potassium hydroxide | 1 N, 246 ml | [OH-].[K+]
reactant | ethyl 2-methanesulfonamidothiazol-5-ylacetate | 26 g | CS(=O)(=O)NC=1SC(=CN1)CC(=O)OCC | C8H12N2O4S2
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 52 ml | C(C)O | C2H6O
product | 2-methanesulfonamidothiazol-2-ylacetic acid | 16.6 g | CS(=O)(=O)NC1(SC=CN1)CC(=O)O | C6H10N2O4S2
